US09447266B2
The above ICH2CH2(CF2)3SO2Na wet solid was dissolved in ethanol and treated with 8.7 g KOH (MW=56, 85%, 0.132 mol) at room temperature, then the mixture was reacted at 50° C. for 8 hrs to precipitate a solid (KI). The reaction mixture was cooled to 20° C. and filtered to remove solids. No significant change in 19F NMR was observed. The solvent was stripped and the resulting solid was acidified with 2N H2SO4 to a pH<2. The acidified solution was extracted with t-butylmethyl ether (three times, 100 mL each) and the combined ether solution was dried over MgSO4. Finally, the solution was filtered and the solvent was stripped to yield 21.5 g (MW=242, 88.8 mmol) desired semisolid product, CH2═CH(CF2)3SO2H, which is soluble in water. The structure of the product was confirmed by NMR analyses, 19F NMR, −115 (dxt, 2F, ═CHCF2-), −125 (txm, 2F), −127 (t, 2F, —CF2SO2H). 1H NMR, 4.4˜5.6 (m) ppm, indicating no more ICH2CH2— signal. The isolated yield is ˜88.8% from ICH2CH2CF2CF2CF2I.

reactant | ICH2CH2(CF2)3SO2Na | ICCC(F)(F)C(F)(F)C(F)(F)S(=O)O[Na]
reactant | KOH | 0.132 mol, 8.7 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | CH2═CH(CF2)3SO2H | yield is ˜88.8% | C=CC(F)(F)C(F)(F)C(F)(F)S(=O)O | C5H4F6O2S
